US09024021B2
To the solution of methyl 4-methyl-3-[(trimethylsilyl)ethynyl]benzoate (2.3 g) in THF (40 ml) was added tetrabutylammonium fluoride (1.0M in THF, 3.2 ml, 11 mmol) at ambient temperature and stirred for 15 minutes, concentrated and the residue purified by flash chromatography on silica gel (elution with 2% ethyl acetate in n-hexane) to provide methyl 3-ethynyl-4-methylbenzoate.

reactant | methyl 4-methyl-3-[(trimethylsilyl)ethynyl]benzoate | 2.3 g | CC1=C(C=C(C(=O)OC)C=C1)C#C[Si](C)(C)C | C14H18O2Si
reactant | tetrabutylammonium fluoride | 11 mmol, 1.0M, 3.2 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | methyl 3-ethynyl-4-methylbenzoate | C(#C)C=1C=C(C(=O)OC)C=CC1C | C11H10O2
